US04831151
705 mg (4.7 mmol) of 4-dimethylaminobenzaldehyde are added to a solution of 348 mg (2.1 mmol) of 1,3-diamino-2-ethyl-imidazolium chloride in 4.4 ml of glacial acetic acid, whereupon the mixture is stirred for 20 hours. The yellow crystals obtained are filtered off and recrystallized from ethanol. There is obtained 1,3-bis[[p-(dimethyl-amino)benzylidene]amino]-2-ethylimidazolium chloride of melting point 248°.

reactant | 4-dimethylaminobenzaldehyde | 4.7 mmol, 705 mg | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 1,3-diamino-2-ethyl-imidazolium chloride | 2.1 mmol, 348 mg | [Cl-].N[N+]1=C(N(C=C1)N)CC
solvent | acetic acid | 4.4 ml | C(C)(=O)O | C2H4O2
product | 1,3-bis[[p-(dimethyl-amino)benzylidene]amino]-2-ethylimidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)CC)C=C1)C | InChI=1S/C23H29N6.ClH/c1-6-23-28(24-17-19-7-11-21(12-8-19)26(2)3)15-16-29(23)25-18-20-9-13-22(14-10-20)27(4)5;/h7-18H,6H2,1-5H3;1H/q+1;/p-1
